US05071866
Oxone (potassium monopersulfate compound)(3.80 g, 6 mmol) suspended in water (20 mL) was added slowly to a stirred solution of methyl [[6-(3,4,5-triphenyl-1H-pyrazol-1-yl)hexyl]thio]acetate (1.00 g, 2 mmol) in methanol (20 mL) maintained at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 5.5 hours before being poured onto water. The mixture was extracted with diethyl ether, the etheral layer washed twice with saturated sodium chloride solution, dried over magnesium sulfate and concentrated in vacuo. Crystallization of the residue from a mixture of hexane and dichloromethane (25:1) afforded methyl [[6-(3,4,5-triphenyl 1H-pyrazol-1-yl)hexyl]sulfonyl]acetate (1.17 g, 91%); m.p.=92.5°-94.5° C. MS(CI): m/e=517 (MH+).

reactant | Oxone | 6 mmol, 3.80 g | OOS(=O)[O-].[K+]
reactant | methyl [[6-(3,4,5-triphenyl-1H-pyrazol-1-yl)hexyl]thio]acetate | 2 mmol, 1.00 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCSCC(=O)OC | C30H32N2O2S
reactant | water | 20 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | methyl [[6-(3,4,5-triphenyl 1H-pyrazol-1-yl)hexyl]sulfonyl]acetate | 1.17 g, 91% | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCS(=O)(=O)CC(=O)OC | C30H32N2O4S
